US07750038B2
This compound was prepared using the general procedure for sulfonylation of indolines and tetrahydroquinolines as described in Example 4 using 5-bromoindoline (0.396 g, 2.0 mmol) and propylsulfonyl chloride (0.34 mL, 3 mmol) to provide 5-bromo-1-(propylsulfonyl)indoline (0.32 g). MS (ES) m/z 303.6; HPLC purity 100.0% at 210-370 nm, 9.8 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammonium formate buffer pH=3.5 acetonitrile+MeOH) for 10 minutes, hold 4 minutes.

reactant | 5-bromoindoline | 2.0 mmol, 0.396 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | propylsulfonyl chloride | 3 mmol, 0.34 mL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
product | 5-bromo-1-(propylsulfonyl)indoline | 0.32 g | BrC=1C=C2CCN(C2=CC1)S(=O)(=O)CCC | C11H14BrNO2S
